US07001897B2
To a solution of ((2S)-2-t-butoxycarbonylamino-3-methylbutyl)-carbamic acid p-nitrobenzyl ester (3.13 g, 8.21 mmol) (obtained as described in Reference Example 61(3)) in 1,4-dioxane (31 ml) was added a 4N solution of hydrogen chloride in 1,4-dioxane (31 ml) in an ice bath, and the mixture was stirred at room temperature for 4 hours. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue, and the resulting mixture was filtered off and washed with ethyl acetate to give ((2S)-2-amino-3-methylbutyl)carbamic acid p-nitrobenzyl ester hydrochloride (1.82 g, yield 70%) as pale yellow crystals.

reactant | ((2S)-2-t-butoxycarbonylamino-3-methylbutyl)-carbamic acid p-nitrobenzyl ester | 8.21 mmol, 3.13 g | [N+](=O)([O-])C1=CC=C(COC(NC[C@H](C(C)C)NC(=O)OC(C)(C)C)=O)C=C1 | C18H27N3O6
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | 31 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 31 ml | O1CCOCC1 | C4H8O2
product | ((2S)-2-amino-3-methylbutyl)carbamic acid p-nitrobenzyl ester hydrochloride | 1.82 g, yield 70% | Cl.[N+](=O)([O-])C1=CC=C(COC(NC[C@H](C(C)C)N)=O)C=C1 | InChI=1S/C13H19N3O4.ClH/c1-9(2)12(14)7-15-13(17)20-8-10-3-5-11(6-4-10)16(18)19;/h3-6,9,12H,7-8,14H2,1-2H3,(H,15,17);1H/t12-;/m1./s1
